### PR TITLE
tweaks

### PR DESCRIPTION
**Pull request by clayrat**

### CODE REVIEW

File: theories/Lift.v [hunk 1]
```diff
@@ -121,5 +121,5 @@ Section Lift.
     Qed.
   End Lub.
 
-  HB.instance Definition L_dpco_axioms := DcpoOfPoset.Build (L A) L_ltHasDLub.
+  HB.instance Definition L_dcpo_axioms := DcpoOfPoset.Build (L A) L_ltHasDLub.
```
Comment (jonsterling) [inline theories/Lift.v:124]: Is there some hidden character change here? I am having trouble seeing what the diff is here haha

File: theories/Poset.v [hunk 2]
```diff
@@ -111,6 +110,6 @@ Section Lub.
   Lemma lub_unique : ∀ x y : A, is_lub x → is_lub y → x = y.
   Proof. by move=> ?? [? Hx] [? Hy]; apply: ltE; [apply: Hx| apply: Hy]. Qed.
 
-  Lemma above_lub : ∀ x y : A, is_lub x → (∀ z, F z ≤ y) → x ≤ y.
+  Lemma above_lub : ∀ x y : A, is_lub x → is_ub y → x ≤ y.
```
Comment (jonsterling) [inline theories/Poset.v:113]: 👍🏼

**Review by jonsterling — APPROVED** [review]
Looks fine! Btw, please feel free to just open branches on the main branch rather than on your fork (I don't care either way, but I don't see the point of so many levels of indirection)

Thanks again!

File: theories/Lift.v (hunk 1 above)
Comment (clayrat) [reply theories/Lift.v:124]: `dpco` -> `dcpo`

Comment (jonsterling) [reply theories/Lift.v:124]: wow i can’t believe i couldn’t see that!  😂😂😂

Comment (clayrat) [reply theories/Lift.v:124]: Swapped letters inside a word can be difficult to spot because we normally read in blocks, not strictly sequentially :)
